US07608621B2
N-[(5-Hydroxy-3-oxo-6-phenyl-2,3-dihydro-4-pyridazinyl)carbonyl]glycine
Ethyl 3-{2-[2-(ethyloxy)-2-oxo-1-phenylethylidene]hydrazino}-3-oxopropanoate. A mixture of ethyl 3-hydrazino-3-oxopropionate (1.46 g, 10.0 mmol), ethyl benzoylformate (2.14 g, 12.0 mmol), acetic acid (0.5 mL, 8.3 mmol) and dichloromethane (10 mL) was stirred at room temperature with excess anhydrous magnesium sulfate for 20 h, then filtered and the cake washed with ethyl acetate. The filtrate was evaporated under reduced pressure, azeotroped 3 times with toluene and chromatographed (silica gel, 10-3-% ethyl acetate/hexane) to give the title compound (0.773 g, 25%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.15 (t, J=7.07 Hz, 3H) 1.30 (t, J=7.07 Hz, 3H) 3.74 (s, 2H) 4.08 (q, J=7.07 Hz, 2H) 4.40 (q, J=7.18 Hz, 2H) 7.42-7.49 (m, 3H) 7.55-7.59 (m, 2H) 11.57 (s, 1H).

reactant | Ethyl 3-{2-[2-(ethyloxy)-2-oxo-1-phenylethylidene]hydrazino}-3-oxopropanoate | C(C)OC(C(C1=CC=CC=C1)=NNC(CC(=O)OCC)=O)=O | C15H18N2O5
reactant | ethyl 3-hydrazino-3-oxopropionate | 10.0 mmol, 1.46 g | N(N)C(CC(=O)OCC)=O | C5H10N2O3
reactant | ethyl benzoylformate | 12.0 mmol, 2.14 g | C(C1=CC=CC=C1)(=O)C(=O)OCC | C10H10O3
reactant | acetic acid | 8.3 mmol, 0.5 mL | C(C)(=O)O | C2H4O2
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[(5-Hydroxy-3-oxo-6-phenyl-2,3-dihydro-4-pyridazinyl)carbonyl]glycine | 0.773 g, 25% | OC1=C(C(NN=C1C1=CC=CC=C1)=O)C(=O)NCC(=O)O | C13H11N3O5
